US04726941
Example 21. L-Pyroglutamyl-L-phenylalanine Methyl Ester
N-Methylmorpholine (2.02 g, 0.020 mol) and isobutyl chloroformate (2.73 g, 0.020 mol) were added to a solution of L-pyroglutamic acid (2.58 g, 0.020 mol) in 100 ml of THF/DMF (6:1) at -15° C. After a 2 minute coupling period, a mixture of L-phenylalanine methyl ester hydrochloride (4.31 g, 0.020 mol) (suspension) and N-methyl morpholine (2.02 g, 0.020 mol) in 50 ml of DMF was added to the reaction mixture. The reaction was allowed to proceed at this temperature for 30 minutes and then at room temperature for 1 additional hour. The reaction mixture was then filtered to remove fines and the filtrate was evaporated in vacuo to incipient dryness. The resulting yellow liquid was dissolved in 100 ml of ethyl acetate, and the ethyl acetate solution was washed with 5% citric acid saturated with sodium chloride (50 ml) and 5% sodium bicarbonate saturated with NaCl (50 ml). The separated organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo to yield quantitative amounts of a pale yellow liquid which was used directly for the following step. TLC: Rf =0.22 in EtOAc/AcOH (100:1), detected by UV quenching; IR (neat, cm-1) 3300 (NH), 3020-3060 (C6H5), 2860-2960 (alkyl), 1650-1750 (C=O); NMR (Silanor C, δ from TMS) 7.25 (fused s, C6H5 --), 5.5-5.7 and 6.6-6.8 (broad, NH's), 4.6-5.1 (g, --NH--CH--C=O), 3.0-3.2 (q, --CH2 --C6H5), 1.6-2.5 (m, cycl. O=C--CH2 --CH2).

reactant | N-Methylmorpholine | 0.020 mol, 2.02 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.020 mol, 2.73 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | L-pyroglutamic acid | 0.020 mol, 2.58 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | L-phenylalanine methyl ester hydrochloride | 0.020 mol, 4.31 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-methyl morpholine | 0.020 mol, 2.02 g | CN1CCOCC1 | C5H11NO
solvent | THF DMF | 100 ml | C1CCOC1.CN(C)C=O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | EtOAc AcOH | CCOC(=O)C.CC(=O)O
product | L-Pyroglutamyl-L-phenylalanine Methyl Ester | COC([C@@H](NC([C@H]1NC(CC1)=O)=O)CC1=CC=CC=C1)=O | C15H18N2O4
